US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and 3,4-difluorobenzoyl chloride, there is obtained ethyl N-(3,4-difluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 406 (3), 377 (17), 194 (100), 141 (38);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
product | ethyl N-(3,4-difluorobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | FC=1C=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=CC1F | C24H20F2N2O2
